US03962376
Dimethyl 4-tert.-Butyl-2,6-dimethyl-3-hydroxybenzylphosphonate
To 16.1 grams of 6-tert.-butyl-3-chloromethyl-2,4-dimethylphenol dissolved in 40 ml. of dry n-heptane was added 9.55 grams of trimethyl phosphite. One-third of the trimethyl phosphite was initially added dropwise at room temperature, the remainder being added dropwise at 70°. The reaction mixture was then heated at reflux (97°) for ten hours and the residual white solid isolated by stripping off the volatiles by distillation at 50° to 60° at reduced pressure. The residue was triturated twice with petroleum ether and recrystallized, after clarification, from a solvent mixture of n-hexane and isopropanol yielding the desired product as white crystals melting at 146° to 148°. (compound 1)

reactant | 6-tert.-butyl-3-chloromethyl-2,4-dimethylphenol | 16.1 grams | C(C)(C)(C)C1=CC(=C(C(=C1O)C)CCl)C | C13H19ClO
reactant | trimethyl phosphite | 9.55 grams | P(OC)(OC)OC | C3H9O3P
solvent | n-heptane | CCCCCCC | C7H16
product | Dimethyl 4-tert.-Butyl-2,6-dimethyl-3-hydroxybenzylphosphonate | C(C)(C)(C)C1=C(C(=C(CP(OC)(OC)=O)C(=C1)C)C)O | C15H25O4P
